US07491737B2
A mixture of tert-butyl 4-(1H-imidazol-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate (7.5 g) and palladium on carbon (10%, 1 g) in ethanol (150 mL) was hydrogenated at 30 psi overnight. The catalyst was removed by filtration through celite and the filtrate was evaporated to give tert-butyl 4-(1H-imidazol-2-yl)piperidine-1-carboxylate (7.5 g).

reactant | tert-butyl 4-(1H-imidazol-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 7.5 g | N1C(=NC=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C13H19N3O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | tert-butyl 4-(1H-imidazol-2-yl)piperidine-1-carboxylate | 7.5 g | N1C(=NC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21N3O2
